US07381728B2
N-[5-(cis3,5-Dimethyl-1-piperazinyl)-2-(methyloxy)phenyl]-4-(2-oxo-1-pyrrolidinyl)benzenesulfonamide (E121)
The title compound (E121) was prepared from 4-bromo-N-[5-(cis-3,5-dimethyl-1-piperazinyl)-2-(methyloxy)phenyl]benzenesulfonamide (E106) and 2-pyrrolidinone using a similar method to that described for Example 23 (E23). MS (ES+) m/e 459 [M+H]+.

reactant | 4-bromo-N-[5-(cis-3,5-dimethyl-1-piperazinyl)-2-(methyloxy)phenyl]benzenesulfonamide | BrC1=CC=C(C=C1)S(=O)(=O)NC1=C(C=CC(=C1)N1C[C@H](N[C@H](C1)C)C)OC | C19H24BrN3O3S
reactant | 2-pyrrolidinone | N1C(CCC1)=O | C4H7NO
product | N-[5-(cis3,5-Dimethyl-1-piperazinyl)-2-(methyloxy)phenyl]-4-(2-oxo-1-pyrrolidinyl)benzenesulfonamide | C[C@@H]1CN(C[C@@H](N1)C)C=1C=CC(=C(C1)NS(=O)(=O)C1=CC=C(C=C1)N1C(CCC1)=O)OC | C23H30N4O4S
